US08232410B2
(c) Synthesis of 5-amino-6-diethylamino-2-(2-methoxyphenyl)-1H-benzo[d]-imidazole
To the solution of 5-(diethylamino)-2,4-dinitro-1-(2-methoxybenzoyl)aminobenzene (388 mg, 1.0 mmol) in 10 mL of 1,4-dioxane and 10 mL of methanol, was added ammonium formate (1.5 g) and 10% Pd/C (200 mg) under nitrogen atmosphere. The reaction mixture was stirred for 30 min. The Pd/C and excess ammonium formate were filtered. Conc. HCl (10 mL) was added to the filtrate. After heating at 75° C. for 18 h, the reaction mixture was basified to pH 8 with saturated K2CO3 solution. The reaction mixture was diluted with 200 mL of ethyl acetate, washed with brine, and dried over anhydrous MgSO4. The reaction mixture was filtered and concentrated in vacuo to afford the crude product (280 mg, 90% yield). The crude product was then purified by column chromatography on silica gel using EtOAc as the eluant to afford the desired product (188 mg, 61% yield) as a brown solid: 1H-NMR (300 MHz, CDCl3) δ 1.01 (t, 6H, J=7.2 Hz), 3.01 (q, 4H, J=7.2 Hz), 4.05 (s, 3H), 6.92 (s, 1H), 7.03 (d, 1H, J=8.1 Hz), 7.11 (t, 1H, J=8.1 Hz), 7.36 (t, 1H, J=6.9), 7.41 (s, 1H), 8.52 (d, 1H, J=7.8 Hz); ESI MS m/z 311.2 [M+H]+.

reactant | 5-(diethylamino)-2,4-dinitro-1-(2-methoxybenzoyl)aminobenzene | 1.0 mmol, 388 mg | C(C)N(C=1C(=CC(=C(C1)NC(C1=C(C=CC=C1)OC)=O)[N+](=O)[O-])[N+](=O)[O-])CC | C18H20N4O6
reactant | ammonium formate | 1.5 g | C(=O)[O-].[NH4+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 5-amino-6-diethylamino-2-(2-methoxyphenyl)-1H-benzo[d]-imidazole | 188 mg, 61% yield | NC1=CC2=C(NC(=N2)C2=C(C=CC=C2)OC)C=C1N(CC)CC | C18H22N4O
